US06900216B2
Ethylmagnesium bromide (1M solution in tetrahydrofuran; 6.4 ml) was added to a solution of N,7-dimethoxy-N-methylbenzo[b]thiophene-2-carboxamide (1.5 g) in tetrahydrofuran, then the mixture was stirred at ambient temperature for 1 hour and at reflux temperature for 1 hour. Further ethylmagnesium bromide (1M solution in tetrahydrofuran; 6.4 ml) was added, the mixture was stirred at ambient temperature for 1 hour and at reflux temperature for 2.5 hour, then it was cooled to ambient temperature and quenched by the addition of 5M hydrochloric acid (10 ml) and water (150 ml). The product was extracted into dichloromethane (3×60 ml), then the combined extracts were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by flash chromatography over silica using dichloromethane followed by a 99:1 mixture of dichloromethane and methanol as eluants. Appropriate fractions were combined, and the solvents were removed in vacuo to give 1-(7-methoxybenzo[b]thiophen-2-yl)propan-1-one (0.7 g) as an oil which was used without further purification.

reactant | Ethylmagnesium bromide | 1M, 6.4 ml | C(C)[Mg]Br
reactant | N,7-dimethoxy-N-methylbenzo[b]thiophene-2-carboxamide | 1.5 g | CON(C(=O)C1=CC2=C(S1)C(=CC=C2)OC)C | C12H13NO3S
reactant | ethylmagnesium bromide | 1M, 6.4 ml | C(C)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(7-methoxybenzo[b]thiophen-2-yl)propan-1-one | 0.7 g | COC1=CC=CC2=C1SC(=C2)C(CC)=O | C12H12O2S
